US09382243B2
Step A. (2R,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol
To a stirred solution of 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine (476 mg, 0.710 mmol) under nitrogen in anhydrous DCM (6.0 mL) was added 4A molecular sieves (1.6 g). The mixture was cooled to 0° C., then triethylsilane (0.85 mL, 619 mg, 5.33 mmol) and TFA (0.41 mL, 607 mg, 5.33 mmol) were added. The mixture was stirred at 0° C. for 1.5 hours, and then allowed to stir 1 hour at room temperature. The mixture was then cooled to 0° C. and a saturated aqueous solution of potassium carbonate (30 mL) was added dropwise over 3 minutes. After stirring at room temperature for an additional 5 minutes, the mixture was filtered, diluted with saturated aqueous sodium bicarbonate (30 mL), and extracted with ethyl acetate (2×150 mL). The combined organic layers were washed with brine (60 mL), dried over sodium sulfate, and concentrated under reduced pressure. The resultant residue was chromatographed using a Biotage™ 25 g silica gel cartridge eluted with 0-100% EtOAc in 1:1 Hexane/DCM over 25 column volumes with a 15 column volume hold at 100% EtOAc. The product fractions were combined and concentrated under reduced pressure to give the desired product as a white solid. LC-MS: calculated for C30H36ClN3O5Si 581.21, observed m/e: 582.31 (M+H)+ (Rt 2.66/4 min).

reactant | 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | 0.710 mmol, 476 mg | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]1OC(OC[C@H]1OC2)C2=CC=CC=C2)Cl)C2=CC=CC=C2 | C37H40ClN3O5Si
reactant | triethylsilane | 5.33 mmol, 0.85 mL, 619 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 5.33 mmol, 0.41 mL, 607 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | potassium carbonate | 30 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 6.0 mL | C(Cl)Cl | CH2Cl2
product | (2R,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]([C@H](OC2)CO)O)Cl)C2=CC=CC=C2 | C30H36ClN3O5Si
